US06433176B1
According to a procedure similar to that of Embodiment 1, a mixture of m-aminophenol (110 mg, 1 mmol), 1,3-bis(toluenesulfonyloxy)propane (3.84 g, 10 mmol), wet 1,4-dioxane (3 ml) and anhydrous Na2CO3 (424 mg, 4 mmol) was heated and refluxed for 5 days. After silica gel column chromatography, 8-hydroxyjulolidine (51 mg) was obtained in 27% yield.

reactant | m-aminophenol | 1 mmol, 110 mg | NC=1C=C(C=CC1)O | C6H7NO
reactant | 1,3-bis(toluenesulfonyloxy)propane | 10 mmol, 3.84 g | C=1(C(=CC=CC1)S(=O)(=O)OCCCOS(=O)(=O)C=1C(=CC=CC1)C)C | C17H20O6S2
reactant | Na2CO3 | 4 mmol, 424 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 8-hydroxyjulolidine | 51 mg, 27% yield | C1CC2=C3C(=C(C=C2)O)CCCN3C1 | C12H15NO
